US05190945
2-(5-Pyrimidylimino)-1,3-dithietane hydrochloride (Compound 1.2)
Dry HCl gas is introduced at 0°-10° C. over a period of half an hour into a solution of 0.5 g (2.732 mmol) of 2-(5-pyrimidylimino)-1,3-dithietane in 50 ml of diethyl ether. The resulting product is filtered off, washed with diethyl ether and dried, yielding 0.5 g (83.4% of the theoretical yield) of product having a melting point (decomp.) of 150° C. and above.

reactant | HCl | Cl | ClH
reactant | 2-(5-pyrimidylimino)-1,3-dithietane | 2.732 mmol, 0.5 g | N1=CN=CC(=C1)N=C1SCS1 | C6H5N3S2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(5-Pyrimidylimino)-1,3-dithietane hydrochloride | Cl.N1=CN=CC(=C1)N=C1SCS1 | InChI=1S/C6H5N3S2.ClH/c1-5(2-8-3-7-1)9-6-10-4-11-6;/h1-3H,4H2;1H
